US04675321
Preparation of Ethyl 3-acetyl-6-methyl-4-phenyl-3,4-dihydropyrimidine-2(1H)thione-5-carboxylate
Utilizing the general procedure of Example 2 and starting with benzaldehyde, thiourea and ethyl acetoacetate, ethyl 4-phenyl-3,4-dihydropyrimidine-2(1H)thione-5-carboxylate was prepared and then acylated with acetic anhydride to afford the title product as a solid (mp 142°-5° C.).

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | thiourea | NC(=S)N | CH4N2S
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl 4-phenyl-3,4-dihydropyrimidine-2(1H)thione-5-carboxylate | C1(=CC=CC=C1)C1NC(NC=C1C(=O)OCC)=S | C13H14N2O2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 3-acetyl-6-methyl-4-phenyl-3,4-dihydropyrimidine-2(1H)thione-5-carboxylate | C(C)(=O)N1C(NC(=C(C1C1=CC=CC=C1)C(=O)OCC)C)=S | C16H18N2O3S
